US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-{4-[(pyridin-4-ylmethyl)amino]butyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
4-Pyridine carbaldehyde(0.15 ml) was added to a methanol solution (10 ml) of 7-(4-aminobutyl)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(0.51 g). The mixture was stirred for an hour at room temperature under nitrogen atmosphere. Sodium borohydride (0.2 g) was added to the mixture, and the mixture was stirred at room temperature overnight. The liquid was then condensed under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate: methanol=9:1→3:2). The purified product was condensed under reduced pressure to give the title compound(0.38 g) as a colorless oily matter.

reactant | 4-Pyridine carbaldehyde | 0.15 ml | N1=CC=C(C=C1)C=O | C6H5NO
reactant | 7-(4-aminobutyl)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.51 g | NCCCCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C18H27N3O2
reactant | Sodium borohydride | 0.2 g | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 1-ethyl-3,3,5-trimethyl-7-{4-[(pyridin-4-ylmethyl)amino]butyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.38 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CCCCNCC2=CC=NC=C2 | C24H32N4O2
